.lib "/home/huda/.volare/gf180mcuD/libs.tech/ngspice/sm141064.ngspice" typical
.subckt vref_1v2 VDD VSS VREF IBIAS
* External IBIAS sinks the PMOS mirror reference current.
XM1 IBIAS IBIAS VDD  VDD  pfet_03v3 L=8u    W=2u   nf=1
XM2 VREF  IBIAS VDD  VDD  pfet_03v3 L=8u    W=2u   nf=1
* XM3 is the CTAT diode-connected device; XM4 adds opposing TC in triode.
XM3 VREF  VREF  VMB  VSS  nfet_03v3 L=0.28u W=9.5u nf=1
XM4 VMB   VREF  VSS  VSS  nfet_03v3 L=8u    W=9.5u nf=1
.ends vref_1v2